Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Ibuprofen
 
Attending: ___.
 
Chief Complaint:
rhabdomyolysis
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ F with PMH of frontotemporal dementia c/b
progressive aphasia, HIV, MDD with psychotic features, anxiety
and recent admission ___ for rhabdomyolysis/
constipation/urinary retention who presents to the ED with FTT,
found to have recurrent rhabdomyolysis. Patient's daughter
reports that she is not eating or drinking, spitting out her
medications, and making less urine. She denies any change in her
mother's mental status since discharge on ___. Patient appears
in pain as is walking hunched over and has diarrhea with dark
stool. She denies fevers. Endorses cough. Recently switched to
macrobid for UTI from ED visit on ___. 

In the ED, initial vitals were T 98.7, HR 86, BP 139/86, RR 18,
O2 sat 95% on RA. Exam was notable for lungs CTABL, abdomen soft
and tender diffusely, aphasic, not following commands but moving
all extremities purposefully. Labs were notable for Hb 10.7 
(down
from 12.4 on discharge, but with baseline ~11), WBC 8.2, CK 
1327,
BMP wnl, and lactate 2.3 -> 2.6. UA with 15 RBC, 4 WBC, negative
leuk est/nitrite/blood. Urine culture pending. CT head WO
contrast demonstrated no acute intracranial abnormality. CT A/P 
W
contrast showed no acute abdominopelvic findings, but small R
pleural effusion slightly larger compared to prior. CXR with no
acute cardiopulmonary process. 

The patient was given 2L LR, PO valproic acid ___, IV
pantoprazole 40, PO perphenazine 16mg, raltegravir 400mg, and
macrobid ___. Vitals prior to transfer to floor were T 96.9, 
HR
85, BP 146/78, RR 16 and O2 sat 96% on RA. On arrival to the
floor, patient is nonverbal and unable to provide any history. 

Called daughter ___ to obtain history and confirm PAML. ___
reports that over the past few weeks her mother has appeared 
more
uncomfortable. She has also been having difficulty urinating.
After last admission, she had Foley placed but has been pulling
at it often. ___ reports she often seems visibly in pain. She
took her to see her PCP today and needed to use a wheelchair
because she could no longer walk, which was new for her. 

___ reports that her mother has had diarrhea for the past
several days, starting when she was last in the hospital. She
initially attributed it to increased bowel medications while in
the hospital, but she has not given her mother any of the
prescribed stool softeners since her discharge. She reports she
has had several episodes of stool incontinence, and that the
stool is dark in color and has stained the sheets like iodine.
Patient has never had a colonoscopy; they have been told she
likely has hemorrhoids in the past.  

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.
 
Past Medical History:
- HIV
- Frontotemporal dementia
- Progressive aphasia 
- Essential HTN
- Anxiety
- Panic disorder w/ agoraphobia
- MDD with severe psychotic features
-- History of SI
- Obesity
- Cognitive Impairment 
- Chronic constipation
- Cervical radiculopathy
 
Social History:
___
Family History:
Patient says that a maternal aunt suffered from alcohol abuse 
and depression, and her paternal grandmother was psychiatrically
hospitalized for ___ years, but with an unknown diagnosis.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: reviewed in eflowsheets
GENERAL: nonverbal, NAD
HEENT: PERRL, EOMI. Sclera anicteric and without injection. 
MMM..
CARDIAC: RRR. Audible S1 and S2. No murmurs/rubs/gallops.
LUNGS: CTABL. No wheezes, rhonchi or rales. No increased work of
breathing.
BACK: No CVA tenderness.
ABDOMEN: +BS, non distended, non tender. No organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: aphasic, does not follow commands but moving all 4
extremities purposefully

DISCHARGE PHYSICAL EXAM:
======================
VS: 24 HR Data (last updated ___ @ 717)
    Temp: 99.1 (Tm 99.6), BP: 122/75 (103-130/71-84), HR: 75
(75-100), RR: 18, O2 sat: 97% (92-97), O2 delivery: Ra  
GENERAL: nonverbal, tearful 
CARDIAC: RRR. 
LUNGS: Normal work of breathing
GU: No Foley, Purewick 
NEUROLOGIC: aphasic, does not follow commands
 
Pertinent Results:
ADMISSION LABS:
==============
___ 07:07PM   LACTATE-2.6*
___ 03:00PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:00PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 03:00PM URINE  RBC-15* WBC-4 BACTERIA-NONE YEAST-NONE 
EPI-1
___ 02:02PM   LACTATE-2.3*
___ 12:46PM   GLUCOSE-91 UREA N-6 CREAT-0.8 SODIUM-144 
POTASSIUM-3.6 CHLORIDE-108 TOTAL CO2-26 ANION GAP-10
___ 12:46PM   ALT(SGPT)-55* AST(SGOT)-44* CK(CPK)-1327* ALK 
PHOS-69 TOT BILI-0.2
___ 12:46PM   LIPASE-28
___ 12:46PM   ALBUMIN-3.3*
___ 12:46PM   WBC-8.2 RBC-3.54* HGB-10.7* HCT-34.4 MCV-97 
MCH-30.2 MCHC-31.1* RDW-13.6 RDWSD-48.7*
___ 12:46PM   NEUTS-62.9 ___ MONOS-13.0 EOS-0.6* 
BASOS-0.2 IM ___ AbsNeut-5.17 AbsLymp-1.88 AbsMono-1.07* 
AbsEos-0.05 AbsBaso-0.02
___ 12:46PM   PLT COUNT-363

INTERVAL LABS:
===============
___ 12:46PM BLOOD ALT-55* AST-44* CK(CPK)-1327* AlkPhos-69 
TotBili-0.2
___ 06:42AM BLOOD ALT-49* AST-33 LD(LDH)-309* CK(CPK)-665* 
AlkPhos-70 TotBili-0.3
___ 07:45AM BLOOD ALT-46* AST-30 LD(LDH)-303* CK(CPK)-339* 
AlkPhos-82 TotBili-0.3
___ 07:54AM BLOOD CK(CPK)-113
___ 08:42AM BLOOD CK(CPK)-63
___ 08:17AM BLOOD CK(CPK)-71

DISCHARGE LABS:
===============
___ 08:17AM BLOOD WBC-10.3* RBC-4.41 Hgb-13.5 Hct-41.5 
MCV-94 MCH-30.6 MCHC-32.5 RDW-13.3 RDWSD-45.8 Plt ___
___ 08:17AM BLOOD Glucose-101* UreaN-11 Creat-0.9 Na-145 
K-4.2 Cl-108 HCO3-21* AnGap-16
___ 08:17AM BLOOD Calcium-10.4* Phos-4.4 Mg-1.9

IMAGING:
========
___ HEAD W/O CONTRAST  
FINDINGS: 
There is no evidence of acute territorial infarction, 
hemorrhage, edema, or mass.  There is prominence of the 
ventricles and sulci suggestive of involutional changes. There 
is no evidence of fracture.  The visualized portion of the 
paranasal sinuses, mastoid air cells, and middle ear cavities 
are clear.  The visualized portion of the orbits are 
unremarkable.
 
IMPRESSION: No acute intracranial abnormality.
    
___ ABD & PELVIS WITH CO     
IMPRESSION: 
No acute abdominopelvic findings.
Small right pleural effusion is slightly larger compared to 
prior.

___ (PA & LAT)
IMPRESSION: No acute cardiopulmonary process.

MICROBIOLOGY:
=============
___ 11:22 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 
__________________________________________________________
___ 3:00 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

___ 6:37 am URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------  =>32 R
AMPICILLIN/SULBACTAM--    16 I
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

___ 1:59 am STOOL     CONSISTENCY: SOFT      Source: Stool. 


                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage. 

 
Brief Hospital Course:
TRANSITIONAL ISSUES: 
==================
[] Discharge weight: 83.5lk (184.08lbs) bed weight 
[] Discharge Cr: 0.9
[] Stopped valproic acid while inpatient 
[] While inpatient, discussed goals of care with family, and 
made decision to more towards comfort-focused care. She was 
discharged to ___ facility. 
[] PO intake was very poor while patient while hospitalized, 
thought to be related to her disease progression. Patient also 
had clear dysphagia, and was recommended to have food 
limitations due to concern for aspiration, but her family 
preferred to accept aspiration risks and allow patient to eat 
for comfort. 

ASSESSMENT AND PLAN:
====================
___ F with frontotemporal dementia c/b progressive aphasia, 
HIV, MDD with psychotic features, anxiety and recent admission 
for rhabdomyolysis, constipation and urinary retention who 
presents with diarrhea with neg c diff, failure to thrive, found 
to have labs with elevated CKs c/f rhabdo, which normalized 
after IVF resuscitation. Hospitalization complicated by UTIs. 
Given her severe frontotemporal dementia and disease 
progression, goals of care were extensively discussed. After 
discussions with family, patient was transitioned to 
comfort-focused care, and was discharged to ___ with hospice.

ACUTE/ACTIVE ISSUES:
====================
# GOC
# Failure to thrive: Patient with multiple recent admissions. 
She has been spitting out her PO medications at home and in this 
hospitalization as well. Currently lives at home with daughter 
who provides most of her care, but has been struggling to do so. 
MOLST completed, and patient was made DNR/DNI/no escalation of 
care. Given her severe frontotemporal dementia and disease 
progression, goals of care were extensively discussed. After 
discussions with family, patient was transitioned to 
comfort-focused care, and was discharged to ___ with hospice.

# FTD c/b primary progressive aphasia
# Cognitive impairment
# MDD with psychotic features
Pt with known FTD. Discussed case with ___ cognitive 
neurologist Dr. ___ recommended tapering home valproic 
acid, which was DC'd on ___. Continued home mirtazapine, 
memantine, risperidone and perphenazine and clonazepam PRN 
(although of note, patient had difficulty tolerating pills on 
many days, as she had trouble swallowing and would pocket pills 
without swallowing them). Pt placed on delirium precautions. 

# Dysphagia
Likely related to underlying FTD. Concern that patient is not 
able to fully swallow food and medications, although did not 
have witnessed aspiration events while hospitalized. SLP 
evaluated patient on ___ and recommended puree/thin diet, as 
patient was high aspiration risk and had severely impaired 
swallowing. Discussed with family, who preferred to accept 
aspiration risks and allow for comfort feeds, especially given 
transition in goals of care as outlined above.

# Urinary Tract Infections
# Urinary retention
Seen in ED on ___, diagnosed with UTI. Started on macrobid on 
___ given Foley in place ___ failed voiding trial, so 
catheter was kept in place on discharge for plan with urology 
follow up. Foley since removed, and Purewick used throughout 
hospitalization given ongoing incontinence. RN noted 
foul-smelling urine on ___. Urine culture from ___ grew >100,000 
E.coli, so patient was started on antibiotics, and completed a 
7-day course of ceftriaxone (___). At time of discharge, 
urine output was declining, suspected to be due to poor PO 
intake, but given transition in goals of care as above, this was 
not further explored. 

RESOLVED:
========
#Elevated CK: Likely in the setting of recent immobility and 
infection given URI symptoms. Less likely from psych meds given 
no good studies to suggest causality, so medications were 
continued. CK improved to 71 at time of discharge. TSH, free T4 
normal. 

#Diarrhea: Patient with diarrhea on admission, abdomen non 
tender and without peritoneal signs. C diff negative x2. CD4: 
710, viral load not detectable. 

CHRONIC/STABLE ISSUES:
======================
#HIV: Last CD4 was 906 in ___, on HART. Continued home 
emtricitabine-tenofovir alafen, raltegravir. 

# CODE: DNR/OK to intubate confirmed with HCP
# CONTACT/HCP: Name of health care proxy: ___
Relationship: daughter
Phone number: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. valproic acid (as sodium salt) 250 mg PO QID 
2. RisperiDONE Oral Solution 2 mg PO BID 
3. Memantine 10 mg PO BID 
4. Mirtazapine 30 mg PO QHS 
5. Perphenazine 8 mg PO QAM 
6. Perphenazine 16 mg PO QPM 
7. Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY 
8. Raltegravir 400 mg PO BID 
9. Nitrofurantoin (Macrodantin) 100 mg PO BID 
10. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  Emtricitabine-Tenofovir alafen (200mg-25mg) *DESCOVY* 1 TAB 
PO DAILY  
3.  Memantine 10 mg PO BID  
4.  Mirtazapine 30 mg PO QHS  
5.  Perphenazine 8 mg PO QAM  
6.  Perphenazine 16 mg PO QPM  
7.  Raltegravir 400 mg PO BID  
8.  RisperiDONE Oral Solution 2 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Frontotemporal dementia
Rhabdomyolysis
Urinary Tract Infections 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms ___,  
 
It was a privilege caring for you at ___.  
Please see below for more information on your hospitalization. 
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You were admitted for muscle breakdown (rhabdomyolysis)
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- We gave you fluids to clear the muscle breakdown products
- We made medication changes and tapered you OFF valproic acid
- You developed 2 urinary tract infections while hospitalized, 
and you were treated with antibiotics. 
- After many discussions with your family, we transitioned you 
to comfort-focused care, and you were discharged to hospice. 
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- Seek medical attention if you have new or concerning symptoms.

It was a pleasure taking part in your care here at ___!  
We wish you all the best!
  
- Your ___ Care Team  
 
Followup Instructions:
___